US04673746
10 g of 5,7-dichloro-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole is combined with 100 g pyridine hydrochloride and heated at 200° C. for 0.5 hours. The hot melt is quickly poured into stirred ice water and a resultant precipitate is filtered and dried for 48 hours in vacuo (64° C.). The solid is recrystallized from toluene affording 5,7-dichloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole, mp 194°-196° C.

reactant | 5,7-dichloro-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | 10 g | ClC=1C(=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C1)Cl)OC | C14H8Cl2FNO2
reactant | pyridine hydrochloride | 100 g | Cl.N1=CC=CC=C1
product | 5,7-dichloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | ClC=1C(=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C1)Cl)O | C13H6Cl2FNO2
